US04518603
[2-[(3-Aminopropyl)(3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone
Alternately, the product of Example 10, 2-[3-[(2-benzoylphenyl)(3-nitro-2-pyridinyl)amino]propyl]-1H-isoindole-1,3-(2H)dione is reacted with alcoholic hydrazine hydrate and acid to give the title compound.

reactant | 2-[3-[(2-benzoylphenyl)(3-nitro-2-pyridinyl)amino]propyl]-1H-isoindole-1,3-(2H)dione | C(C1=CC=CC=C1)(=O)C1=C(C=CC=C1)N(CCCN1C(C2=CC=CC=C2C1=O)=O)C1=NC=CC=C1[N+](=O)[O-] | C29H22N4O5
reactant | hydrazine hydrate | O.NN
product | [2-[(3-Aminopropyl)(3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone | NCCCN(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=NC=CC=C1[N+](=O)[O-] | C21H20N4O3
